US05556864
5.4 g of this 2-benzyloxy-3'-chlorostilbene were treated with hydrogen in the presence of 300 mg of tris(triphenylphosphine)rhodium (I) chloride in a mixture of 60 ml of benzene and 40 ml ethanol at room temperature for one day. At the end of this time, aqueous sodium hydrogensulfite containing a small amount of sodium metabisulfite was added to the reaction mixture and allowed to react. Insoluble materials were removed by filtration. Ethyl acetate was added to the filtrate, and the mixture was washed once with water and twice with a saturated aqueous solution of sodium chloride. It was then dried over anhydrous sodium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 20:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 5.35 g (yield 98%) of benzyl 2-[2-(3-chlorophenyl)ethyl]phenyl ether.

reactant | 2-benzyloxy-3'-chlorostilbene | 5.4 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC1=CC(=CC=C1)Cl | C21H17ClO
reactant | hydrogen | [H][H] | H2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | tris(triphenylphosphine)rhodium (I) chloride | 300 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | benzyl 2-[2-(3-chlorophenyl)ethyl]phenyl ether | 5.35 g, yield 98% | ClC=1C=C(C=CC1)CCC1=C(C=CC=C1)OCC1=CC=CC=C1 | C21H19ClO
